US05607956
1-(2-Furyl)-1-(4-methyl-5-thiazolyl)ethanol
Starting with 4-methylthiazole and 2-acetylfuran and following the general method of Example 15 the title compound was prepared. M.p. 127°-128° C.

reactant | 4-methylthiazole | CC=1N=CSC1 | C4H5NS
reactant | 2-acetylfuran | C(C)(=O)C=1OC=CC1 | C6H6O2
product | 1-(2-Furyl)-1-(4-methyl-5-thiazolyl)ethanol | O1C(=CC=C1)C(C)(O)C1=C(N=CS1)C | C10H11NO2S
